US07723347B2
6-(4-Fluorophenyl)-N4-[3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)phenyl]pyrimidine-2,4-diamine
100 mg (0.27 mmol) of 2-fluoro-N1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine and 63 mg (0.28 mmol) of 4-chloro-6-(4-fluorophenyl)pyrimidine-2-amine are suspended in 3 ml of water. 39 μl (0.40 mmol) of a 37% strength hydrochloric acid solution are then added, and the mixture is heated under reflux overnight. After addition of a further 39 μl (0.40 mmol) of a 37% strength hydrochloric acid solution, the mixture is again reacted under reflux overnight. Using 1N aqueous sodium hydroxide solution, the suspension is then adjusted to pH 10, resulting in the precipitation of crystals. The solid is filtered off, washed with a little water and then dissolved in DMSO and purified by preparative RP-HPLC.

reactant | 2-fluoro-N1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | 0.27 mmol, 100 mg | FC1=C(C=CC(=C1)N)NC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C19H25FN4OSi
reactant | 4-chloro-6-(4-fluorophenyl)pyrimidine-2-amine | 0.28 mmol, 63 mg | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)F)N | C10H7ClFN3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
product | 6-(4-Fluorophenyl)-N4-[3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)phenyl]pyrimidine-2,4-diamine | FC1=CC=C(C=C1)C1=CC(=NC(=N1)N)NC1=CC(=C(C=C1)NC1=C2C(=NC=C1)NC=C2)F | C23H17F2N7
